US08466167B2
A solution of 3,5-dichloropicolinonitrile (commercially available) (1.0 eq.), 1-ethynyl-4-methylbenzene (commercially available) (1.0 eq.), trans-dichlororbis(triphenylphosphine)palladium (II) (10 mol %), copper (I) iodide (20 mol %), and triethylamine (5.0 eq.) in DMF (0.3 M) was stirred at 50° C. for 3 hours. After cooling to ambient temperature, the reaction mixture was diluted with ethyl acetate and 10% aqueous ammonium hydroxide. The two phases were separated, and the aqueous layer was extracted twice with ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous MgSO4, and concentrated en vaccuo. The crude material was purified by stirring in hot ether/hexane mixtures and filtered to give 3-chloro-5-(p-tolylethynyl)picolinonitrile.

reactant | 3,5-dichloropicolinonitrile | ClC=1C(=NC=C(C1)Cl)C#N | C6H2Cl2N2
reactant | 1-ethynyl-4-methylbenzene | C(#C)C1=CC=C(C=C1)C | C9H8
reactant | triethylamine | 5.0 eq. | C(C)N(CC)CC | C6H15N
solvent | DMF | 0.3 M | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ammonium hydroxide | [OH-].[NH4+]
catalyst | copper (I) iodide | [Cu]I
product | 3-chloro-5-(p-tolylethynyl)picolinonitrile | ClC=1C(=NC=C(C1)C#CC1=CC=C(C=C1)C)C#N | C15H9ClN2
